US09278968B2
To a solution of 1.73 g of di-tert-butyl imidodicarbonate in DMF 16 ml was added 894 mg of potassium tert-butoxide under ice-cooling, followed by stirring at room temperature for 1 hour. To the reaction mixture was added a solution of 1.37 g of 3-bromo-4-(chloromethyl)pyridine in 3 ml of DMF under ice-cooling, followed by stirring at room temperature for 2 hours. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2.32 g of di-tert-butyl [(3-bromopyridin-4-yl)methyl]imidodicarbonate.

reactant | di-tert-butyl imidodicarbonate | 1.73 g | C(=O)(OC(C)(C)C)NC(=O)OC(C)(C)C | C10H19NO4
reactant | potassium tert-butoxide | 894 mg | CC(C)([O-])C.[K+]
reactant | 3-bromo-4-(chloromethyl)pyridine | 1.37 g | BrC=1C=NC=CC1CCl | C6H5BrClN
reactant | water | O | H2O
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | di-tert-butyl [(3-bromopyridin-4-yl)methyl]imidodicarbonate | 2.32 g | BrC=1C=NC=CC1CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C16H23BrN2O4
